US07419995B2
4-Fluoro-3-nitrobenzoic acid (21.6 mmol) and an aniline (43.2 mmol) in 15 mL of ethanol were stirred at reflux under argon for 5 h resulting in the formation of an orange precipitate. After 12 h the heterogeneous reaction mixture was poured into 50 mL of 1N HCl(aq) and diluted with 100 mL of water. The solution was stirred for 20 min then the precipitate filtered to yield the 4-anilino-3-nitrobenzoic Acid: e.g. 4-{[3-(benzyloxy)phenyl]amino}-3-nitrobenzoic acid.

reactant | 4-Fluoro-3-nitrobenzoic acid | 21.6 mmol | FC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | aniline | 43.2 mmol | NC1=CC=CC=C1 | C6H7N
reactant | HCl | 1N, 50 mL | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | water | 100 mL | O | H2O
product | 4-anilino-3-nitrobenzoic Acid | N(C1=CC=CC=C1)C1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C13H10N2O4
